US07169926B1
As described in example 3D, [3-(4-amino-1-methyl-2-oxo-1,2-dihydro-quinolin-3-ylcarbamoyl)-cyclohexyl]-carbamic acid benzyl ester (0.22 g, 0.49 mmol) was heated in glacial acetic acid (5.30 g, 88.3 mmol) to give [3-(5-methyl-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]quinolin-2-yl)-cyclohexyl]-carbamic acid benzyl ester (0.195 g, 92% yield). 1H-NMR (CDCl3): δ 8.18 (m, 1H), 7.51 (m, 2H), 7.34 (m, 7H), 5.10 (s, 2H), 3.84 (s, 3H), 2.48 (m, 1H), 2.17 (m, 3H), 1.92 (m, 1H), 1.72 (m, 3H), 1.53 (m, 1H), 1.13 (m, 2H). MS: calculated for C25H26N4O3+H 431.2; found: 431.0.

reactant | [3-(4-amino-1-methyl-2-oxo-1,2-dihydro-quinolin-3-ylcarbamoyl)-cyclohexyl]-carbamic acid benzyl ester | 0.49 mmol, 0.22 g | C(C1=CC=CC=C1)OC(NC1CC(CCC1)C(NC=1C(N(C2=CC=CC=C2C1N)C)=O)=O)=O | C25H28N4O4
reactant | acetic acid | 88.3 mmol, 5.30 g | C(C)(=O)O | C2H4O2
product | [3-(5-methyl-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]quinolin-2-yl)-cyclohexyl]-carbamic acid benzyl ester | 0.195 g, 92% yield | C(C1=CC=CC=C1)OC(NC1CC(CCC1)C1=NC2=C(C(N(C=3C=CC=CC23)C)=O)N1)=O | C25H26N4O3
